US07973169B2
27) N-[5-(2-Methoxy-pyridin-3-ylmethyl)-thiazol-2-yl]-2-phenyl-butyramide
5-(2-Methoxy-pyridin-3-ylmethyl)-thiazol-2-ylamine (44 mg, 0.20 mmol) and 2-phenyl-butyric acid (33 mg, 0.20 mmol) were dissolved in acetonitrile (1 mL) containing triethylamine (84.1 μL, 0.600 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (84 mg, 0.22 mmol) was added and the solution was allowed to stir for 16 hours. The crude product was purified by reverse-phase preparative liquid chromatography (15 mg, 0.041 mmol, 21%). ESI-MS m/z calc. 367.1, found 368.1 (M+1)+Retention time 3.24 minutes.

reactant | 5-(2-Methoxy-pyridin-3-ylmethyl)-thiazol-2-ylamine | 0.20 mmol, 44 mg | COC1=NC=CC=C1CC1=CN=C(S1)N | C10H11N3OS
reactant | 2-phenyl-butyric acid | 0.20 mmol, 33 mg | C1(=CC=CC=C1)C(C(=O)O)CC | C10H12O2
reactant | triethylamine | 0.600 mmol, 84.1 μL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.22 mmol, 84 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | N-[5-(2-Methoxy-pyridin-3-ylmethyl)-thiazol-2-yl]-2-phenyl-butyramide | COC1=NC=CC=C1CC1=CN=C(S1)NC(C(CC)C1=CC=CC=C1)=O | C20H21N3O2S
